US06835731B2
4-Hydroxymethyl-N-(2-hydroxyphenyl)-benzamide from above (0.56 g, 2.3 mmol) was dissolved in CH2Cl2 (12 mL) and THF (12 mL), treated with activated MnO2 (2.0 g, 23 mmol) and stirred at room temperature overnight. The mixture was filtered through celite, the cake washed with CH2Cl2 and the solvent from the eluent removed under reduced pressure. Purification of the crude by column chromatography on silica gel (5% MeOH/CH2Cl2) gave 4-formyl-N-(2-hydroxyphenyl)-benzamide (0.05 g, 10%). 1H NMR (CDCl3) δ 6.95 (t, 1H, J=7.8 Hz), 7.05 (d, 1H, J=7.8 Hz), 7.16 (t, 1H, J=7.8 Hz), 7.42 (d, 1H, J=7.8 Hz), 8.04 (m, 5H), 8.33 (br, 1H).

reactant | 4-Hydroxymethyl-N-(2-hydroxyphenyl)-benzamide | OCC1=CC=C(C(=O)NC2=C(C=CC=C2)O)C=C1 | C14H13NO3
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 23 mmol, 2.0 g | O=[Mn]=O
product | 4-formyl-N-(2-hydroxyphenyl)-benzamide | 0.05 g, 10% | C(=O)C1=CC=C(C(=O)NC2=C(C=CC=C2)O)C=C1 | C14H11NO3
